US07560596B2
Synthesis of 2-(3′-acetyl-biphenyl-4-yloxy)-nicotinic acid (FIG. 4, Entry 3)
The general procedure described in Example 3 was used with 2-(4-chloro-phenoxy)-nicotinic acid (250 mg, 1.00 mmol), 3-acetylphenylboronic acid (246 mg, 1.50 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (2.0 mL), 12 h, 80° C. The product was isolated as a white solid (305 mg, 92%). Mp=188° C. 1H NMR (400 MHz, d 6-DMSO) δ: 8.27 (m, 2H), 8.20 (s, 1H), 7.93 (d, 2H, J=7.6 Hz), 7.77 (d, 2H, J=8.8 Hz), 7.61 (t, 1H, J=7.6 Hz), 7.23 (m, 3H), 2.66 (s, 3H). 13C NMR (125 MHz, d6-DMSO) δ: 198.0, 166.0, 160.7, 153.9, 150.3, 141.5, 140.0, 137.5, 135.6, 131.3, 129.4, 128.2, 126.9, 126.4, 121.9, 119.1, 117.2, 26.9. IR (neat, cm−1): 3000-4000 (br), 1674, 1651, 1585, 1418, 1231, 896, 770. Anal. Calcd for C20H15NO4: C, 72.06; H, 4.54. Found: C, 71.68; H, 4.41.

reactant | 2-(4-chloro-phenoxy)-nicotinic acid | 1.00 mmol, 250 mg | ClC1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C12H8ClNO3
reactant | 3-acetylphenylboronic acid | 1.50 mmol, 246 mg | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 2-(3′-acetyl-biphenyl-4-yloxy)-nicotinic acid | 305 mg, 92% | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OC1=C(C(=O)O)C=CC=N1 | C20H15NO4
